US08981104B2
rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(2-{[4-(5-chloro-1,3-benzoxazol-2-yl)benzyl]oxy}-5-fluoro-phenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
4.17 g (9.09 mmol) of rac-ethyl 5-{(tert-butoxycarbonyl)[2-(5-fluoro-2-hydroxyphenyl)ethyl]-amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate, 3.04 g (10.91 mmol) of 5-chloro-2-[4-(chloromethyl)phenyl]-1,3-benzoxazole and 3.14 g (22.74 mmol) of potassium carbonate in 120 ml of acetonitrile were heated to 110° C. and stirred at this temperature overnight. After cooling, the reaction mixture was filtered, the filter cake was washed repeatedly with acetonitrile and the combined filtrates were concentrated to dryness on a rotary evaporator. The residue obtained was purified chromatographically on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1→4:1). This gave 5.43 g (7.75 mmol, 85% of theory) of the target compound.

reactant | rac-ethyl 5-{(tert-butoxycarbonyl)[2-(5-fluoro-2-hydroxyphenyl)ethyl]-amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | 9.09 mmol, 4.17 g | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC(=C1)F)O | C25H31FN2O5
reactant | 5-chloro-2-[4-(chloromethyl)phenyl]-1,3-benzoxazole | 10.91 mmol, 3.04 g | ClC=1C=CC2=C(N=C(O2)C2=CC=C(C=C2)CCl)C1 | C14H9Cl2NO
reactant | potassium carbonate | 22.74 mmol, 3.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(2-{[4-(5-chloro-1,3-benzoxazol-2-yl)benzyl]oxy}-5-fluoro-phenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC(=C1)F)OCC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)Cl | C39H39ClFN3O6
